US07196110B2
(3-Fluoro-phenyl)-(6,7-dimethoxy-2,4-dihydro-indeno[1,2-c]pyrazol-3-yl)-amine, Compound 14 (Method A)
A mixture of 5,6 dimethoxyindan-1-one, Compound 3a, (3.0 g, 0.0154 mole), 3-fluoro-phenyl isothiocyanate, Compound 4a, (2.4 g, 0.0157 mole) and THF (3.0 mL) was added to lithium hexamethyldisilane (15.4 mL, 0.0154 mole) dropwise at room temperature with stirring. The reaction mixture was stirred for 12 hrs. Hydrazine (0.75 mL, 0.0154 mole) and acetic acid (0.96 mL) were added to the reaction mixture, which was then heated at the reflux temperature for 24 hrs. The resulting mixture was first added to water (30 mL) and then extracted with CH2Cl2. The organic layers were combined and washed with aqueous NaHCO3 solution, then washed with water and brine solution, dried (Na2SO4), and solvent was removed in vacuo. The residue was dissolved in hot CH3CN. To the mixture was then added one equivalent of an HCl-ether solution to yield a precipitate of the title compound. The precipitate was dissolved in CH3CN and decolorized with charcoal and re-crystallized to give Compound 14 as an off white solid. MS m/z 326 (M+H)+; 1HNMR (DMSO-d6): 3.44(s, 2H), 3.80(s, 3H), 3.81(s, 3H),6.58(t, 1H),6.85 (d, 1H), 7.1(d, 1H), 7.21(s, 1H), 7.23(s, 1H), 7.3(m, 1H), 9.2(br s, 1H).

reactant | 5,6 dimethoxyindan-1-one | COC=1C=C2CCC(C2=CC1OC)=O | C11H12O3
reactant | 3-fluoro-phenyl isothiocyanate | FC=1C=C(C=CC1)N=C=S | C7H4FNS
reactant | lithium hexamethyldisilane | 0.0154 mole, 15.4 mL | C[Si]([Si](C)(C)C)(C)C.[Li]
reactant | Hydrazine | 0.0154 mole, 0.75 mL | NN | H4N2
solvent | water | 30 mL | O | H2O
solvent | acetic acid | 0.96 mL | C(C)(=O)O | C2H4O2
solvent | THF | 3.0 mL | C1CCOC1 | C4H8O
product | (3-Fluoro-phenyl)-(6,7-dimethoxy-2,4-dihydro-indeno[1,2-c]pyrazol-3-yl)-amine | FC=1C=C(C=CC1)NC1=C2C(=NN1)C1=CC(=C(C=C1C2)OC)OC | C18H16FN3O2
